datasets/10k__Tet_Int.csv
SMILES Labelled
"C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH](C)[NH]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O]C(CC)C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[O]C(CC)C([H])[O]1 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.[H][NH:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(CC)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[NH]C(C7=CC=CC=C7)C(CC)[NH]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)CCCCCC)C1=CC=CC=C1>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)CCCCCC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[H]C1C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1>>[H]C1C(O[C:20](=[O:10])N1C)C1=CC=CC=C1.[O-:21]CCCCCC 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)C([H])C(C)C(CCC)[O+:10]1([Na])>>[O:10]([Na])C(CCC)C(C)C([H])C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([NH:21][H])([O]C8=CC=CC=C8)[NH]C.[Cl-]>>[Cl-].[H][O:10][H].[H][NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]C 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C)[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](C)[CH]([H])C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[O][CH](C)C([H])[CH]([H])[O]1 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[O][CH](C)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[O-:21][C:20]1([H])C([H])=C(C)C([H])C(CCC)[O:10]1>>[O-:10]C(CCC)C([H])/C(C)=C([H])\[C:20]([H])=[O:21] 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)CC.[O-:21]CCCCCC>>CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)C)CC 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"[O:10]([K])C(C)/C([H])=C(C)\C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C(C)=C([H])C(C)[O+:10]1([K]) 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C([H])[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C([H])[CH]([H])[NH]1 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C(C)[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH]([H])[CH](C)C(C8=CC=CC=C8)[S]2.C[S:10][H] 21=20;20,10=10"
"[O-:10]C(C)C(C)C(O)C(O)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(O)C(O)C(C)C(C)[O:10]1 10=20;20,21=21"
"[H][O:10]C(C)C(CC)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(CC)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([NH:21]CC)([O]C)[NH][H].[Cl-]>>[Cl-].[H][O:10][H].CC[NH+:21]=[C:20]([O]C)[NH][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C([H])[CH](C)[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C([H])[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]([NH:21][H])([NH]CC)[NH]C.[Cl-]>>[Cl-].CC[NH:10][H].[H][NH+:21]=[C:20]([NH]CC)[NH]C 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C)[CH](C)C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C(CC)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"CN([C:20]([O-:10])(OC)[O:21]CCCCCC)C>>CN([C:20](=[O:10])OC)C.[O-:21]CCCCCC 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OC1=CC=CC=C1)C)CCCCCC>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OC1=CC=CC=C1)C)CCCCCC 10=20;20,21=21"
"[O-:21][C:20]1(OCC)[O:10]C([H])C(C)=C1C>>[O-:10]C([H])/C(C)=C([C:20](OCC)=[O:21])/C 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)CC)C1=CC=CC=C1)C1=CC=CC=C1>>CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)CC)C1=CC=CC=C1)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[H][S+:10](C([H])C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C(C8=CC=CC=C8)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
